US07326791B2
rac.-3-chloro-N-[1-(5-chloro-1H-benzimidazol-2-yl)ethyl]-4-(2-hydroxycarbonylpyrrolidin-1-ylcarbonyl)benzamide
Prepared analogously to Example 19b from rac.-3-chloro-N-[1-(5-chloro-1H-benzimidazol-2-yl)ethyl]-4-(2-methoxycarbonylpyrrolidin-1-ylcarbonyl)benzamide, and sodium hydroxide solution in isopropanol. Yield: 85%; C22H20Cl2N4O4 (475.33); mass spectrum: (M+H)+=475/477/479 (chlorine isotope).

reactant | rac.-3-chloro-N-[1-(5-chloro-1H-benzimidazol-2-yl)ethyl]-4-(2-methoxycarbonylpyrrolidin-1-ylcarbonyl)benzamide | ClC=1C=C(C(=O)NC(C)C2=NC3=C(N2)C=CC(=C3)Cl)C=CC1C(=O)N1C(CCC1)C(=O)OC | C23H22Cl2N4O4
reactant | sodium hydroxide | [OH-].[Na+]
reactant | chlorine | ClCl | Cl2
solvent | isopropanol | C(C)(C)O | C3H8O
product | rac.-3-chloro-N-[1-(5-chloro-1H-benzimidazol-2-yl)ethyl]-4-(2-hydroxycarbonylpyrrolidin-1-ylcarbonyl)benzamide | Yield: 85% | ClC=1C=C(C(=O)NC(C)C2=NC3=C(N2)C=CC(=C3)Cl)C=CC1C(=O)N1C(CCC1)C(=O)O | C22H20Cl2N4O4
